US08017611B2
A solution of butyllithium (18.17 ml, 2.5M in hexanes) was added to 4-bromo-1-tetrahydropyran-2-yl-pyrazole, in solution in THF (400 ml) between −100° C. and −80° C. under nitrogen atmosphere. The mixture was stirred for 1 hour at −90° C. Trimethoxyborane (5.07 ml) was added at −70° C. and the mixture was stirred for a further 30 minutes. The mixture was quenched with a 15% solution of ammonium chloride (5 ml); the mixture was allowed to warm to room temperature and was stirred for 30 minutes. The organic layer was separated and the aqueous layer was extracted with 20 ml of THF. The combined organic portions were dried over magnesium sulphate and the solvent was evaporated under reduce pressure to afford the crude boronic acid. 2,3-dimethylbutane-2,3-diol (5.11 g) was added to the boronic acid in solution in THF with 4 A molecular sieves (100 mg). The mixture was stirred at room temperature for 15 hours. The mixture was evaporated under reduce pressure. Water (5 ml) was added and the mixture was extracted with heptane (3×10 ml), dried over magnesium sulphate, filtered and evaporated under reduce pressure to afford 1-tetrahydropyran-2-yl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazole (8.80 g). NMR Spectrum: (CDCl3) 1.31 (s, 1H), 1.54-1.76 (m, 4H), 1.95-2.17 (m, 2H), 3.66-3.73 (m, 1H), 4.01-4.07 (m, 1H), 5.41 (dd, 1H), 7.82 (s, 1H), 7.94 (s, 1H)

reactant | butyllithium | 2.5M, 18.17 ml | C(CCC)[Li]
reactant | 4-bromo-1-tetrahydropyran-2-yl-pyrazole | BrC=1C=NN(C1)C1OCCCC1 | C8H11BrN2O
reactant | Trimethoxyborane | 5.07 ml | COB(OC)OC | C3H9BO3
reactant | 2,3-dimethylbutane-2,3-diol | 5.11 g | CC(C)(C(C)(O)C)O | C6H14O2
reactant | boronic acid | B(O)O | BH3O2
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | 1-tetrahydropyran-2-yl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazole | 8.80 g | O1C(CCCC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C14H23BN2O3
